US07915411B2
4-(4-Benzyloxy-phenoxy)-3-nitro-benzaldehyde
A mixture of 4-chloro-3-nitrobenzaldehyde (1.00 g, 5.389 mmol), 4-(benzyloxy)phenol (1.187 g, 5.928 mmol), and potassium carbonate (0.744 g, 5.389 mmol) in anhydrous pyridine (10 mL) was heated at reflux under a nitrogen atmosphere for 30 minutes. The reaction was cooled to room temperature and the solvent removed by rotary evaporation under vacuum. The residue was taken up in ethyl acetate (100 mL) and washed with 1N aqueous hydrochloric acid (2×50 mL), water (50 mL), and brine (50 mL). The organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. Purification by silica gel flash chromatography using methylene chloride as eluent provided the title compound as a yellow solid (1.625 g, 86%).

reactant | 4-chloro-3-nitrobenzaldehyde | 5.389 mmol, 1.00 g | ClC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | 4-(benzyloxy)phenol | 5.928 mmol, 1.187 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | potassium carbonate | 5.389 mmol, 0.744 g | C([O-])([O-])=O.[K+].[K+]
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 4-(4-Benzyloxy-phenoxy)-3-nitro-benzaldehyde | 1.625 g, 86% | C(C1=CC=CC=C1)OC1=CC=C(OC2=C(C=C(C=O)C=C2)[N+](=O)[O-])C=C1 | C20H15NO5
